US06506773B2
3-Methyl-2-(2-phenyl-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-sulfonylmethyl)-butyric acid
2-Phenyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine (0.11 g) was added to a solution of 2-chlorosulfonylmethyl-3-methyl-butyric acid tert-butyl ester (0.14 g) and triethylamine (0.3 ml) in DCM (20 ml) at room temperature. The solution was stirred for 2 h, then TFA (5 ml) was added and the mixture stirred for 1 h. The mixture was evaporated in vacuo and the residue partitioned between diethyl ether (10 ml) and saturated sodium bicarbonate (30 ml). The aqueous layer was acidified with citric acid to pH 5 and extracted with ethyl acetate (3×20 ml). The solvent was dried (MgSO4) and evaporated to give the title compound as pale yellow solid (0.15 g).

reactant | 2-Phenyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine | 0.11 g | C1(=CC=CC=C1)C=1SC=2CNCCC2N1 | C12H12N2S
reactant | 2-chlorosulfonylmethyl-3-methyl-butyric acid tert-butyl ester | 0.14 g | C(C)(C)(C)OC(C(C(C)C)CS(=O)(=O)Cl)=O | C10H19ClO4S
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-Methyl-2-(2-phenyl-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-sulfonylmethyl)-butyric acid | 0.15 g | CC(C(C(=O)O)CS(=O)(=O)N1CC2=C(CC1)N=C(S2)C2=CC=CC=C2)C | C18H22N2O4S2
